US04640913
Methyl 2-methyl-1,3-dithiolane-2-propanoate
Into a mixture of about 100 g of methyl levulinate and about 100 ml of ethanedithiol was slowly poured boron trifluoride etherate until reflux began. An about 500 ml portion of methanol was added followed by sufficient boron trifluoride etherate to make a total of about 100 ml of this reagent. The mixture was stirred overnight, the solvent removed and the residue poured into saturated sodium bi-carbonate. The mixture was extracted with ether. The ether extract was dried, the solvent removed and the residue distilled at about 97°-100° C., at about 0.55 mm, giving about 147 g of the desired title compound.

reactant | methyl levulinate | about 100 g | C(CCC(=O)C)(=O)OC | C6H10O3
reactant | ethanedithiol | about 100 ml | C(C)(S)S | C2H6S2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | methanol | CO | CH4O
product | Methyl 2-methyl-1,3-dithiolane-2-propanoate | about 147 g | CC1(SCCS1)CCC(=O)OC | C8H14O2S2
